US09145392B2
Step 5: 2-(2-(1-(6-amino-5-(1H-pyrazol-4-yl)pyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-methylphenyl)-1H-imidazol-1-yl)ethanol
tert-butyl 4-(4-amino-6-(4-(4-(4-fluoro-3-methylphenyl)-1-(2-hydroxyethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazole-1-carboxylate (10.00 mg; 0.02 mmol) in 0.5 ml methanol was added 0.5 ml 4.0M HCl in dioxane, stirred at RT for 3 hrs, showed clean desired by LC-MS. Removed off solvent, got white solid as title compound. LC-MS: (M+1=463, obsd.=463).

reactant | tert-butyl 4-(4-amino-6-(4-(4-(4-fluoro-3-methylphenyl)-1-(2-hydroxyethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazole-1-carboxylate | 0.02 mmol, 10.00 mg | NC1=NC=NC(=C1C=1C=NN(C1)C(=O)OC(C)(C)C)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO | C29H35FN8O3
reactant | HCl | 4.0M, 0.5 ml | Cl | ClH
solvent | methanol | 0.5 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(2-(1-(6-amino-5-(1H-pyrazol-4-yl)pyrimidin-4-yl)piperidin-4-yl)-4-(4-fluoro-3-methylphenyl)-1H-imidazol-1-yl)ethanol | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO)C=1C=NNC1 | C24H27FN8O
